US09402397B2
N-Nitroso-N-methylurea (16.14 g, 61.53 mmol) was treated with a concentrated NaOH aqueous solution to produce diazomethane. The diazomethane was combined with dry ether (100 ml), dried over KOH, and the resulting ethereal solution was cooled in an ice-salt bath. A solution of furan-2-carbonyl chloride (1.6 g, 12.3 mmol) in dry ether (25 ml) was then added very slowly to the diazomethane solution. The reaction mixture was stirred overnight at room temperature. The solvent was evaporated to dryness (under an argon atmosphere, and keeping the water bath temperature below 25° C.), and the resulting crude material was purified by column chromatography using 230-400 mesh silica gel and 1% triethylamine in DCM solvent system. Evaporation of solvent yielded 2-diazo-1-(furan-2-yl)ethanone as a yellow oil (900 mg, 49%).

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | furan-2-carbonyl chloride | 12.3 mmol, 1.6 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-diazo-1-(furan-2-yl)ethanone | 900 mg, 49% | [N+](=[N-])=CC(=O)C=1OC=CC1 | C6H4N2O2
